US07521461B2
N-[2-(2-ethoxyphenyl)ethyl]-3-(4-hydroxyphenyl)propanamide (0.35 g, 1.12 mmol) and methyl 2-(bromomethyl)benzoate (0.28 g, 1.23 mmol) was dissolved in acetonitrile (5 ml) and potassium carbonate (324 mg, 2.34 mmol) was added. The mixture was stirred at 60° C. for three hours. Polymer supported trisamine (0.3 eqv) was added and stirred overnight. The polymer was filtered off, solvent was removed by evaporation, addition of EtOAc (10 ml) and the organic phase was washed with three portions of water. After drying the crude (MgSO4) and the solvent was removed by evaporation, the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min)). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 26 mg of methyl 2-{[4-(3-{[2-(2-ethoxyphenyl)ethyl]amino}-3-oxopropyl)phenoxy]methyl}benzoate (yield 50.4%).

reactant | N-[2-(2-ethoxyphenyl)ethyl]-3-(4-hydroxyphenyl)propanamide | 1.12 mmol, 0.35 g | C(C)OC1=C(C=CC=C1)CCNC(CCC1=CC=C(C=C1)O)=O | C19H23NO3
reactant | methyl 2-(bromomethyl)benzoate | 1.23 mmol, 0.28 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 2.34 mmol, 324 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trisamine | 0.3 eqv | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | methyl 2-{[4-(3-{[2-(2-ethoxyphenyl)ethyl]amino}-3-oxopropyl)phenoxy]methyl}benzoate | 26 mg, yield 50.4% | C(C)OC1=C(C=CC=C1)CCNC(CCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O | C28H31NO5
